US06765008B1
A. 2-amino-4-methyl-1-(2,4,6-trimethylphenyl)pyrrole-3-carbonitrile
A mixture 2-(2-bromo-1-methyl-ethyl idene)-malononitrile and 2,4,6-trimethylaniline (17.330 g, 91.24 mmol) in 40 mL of isopropanol was stirred at room temperature for 15 hours. The reaction mixture was concentrated to dryness and diluted with chloroform and water. The chloroform layer was neutralized with dilute sodium hydroxide and washed with brine, separated, dried and concentrated to give 33.000 g of brown oily solid. The solid was purified through silica gel column chromatography to give 9.35 g (47.5%) of the title compound as an orange-yellow solid. 1H NMR (CDCl3) δ 2.0(s, 6H), 2.15(s, 3H), 2.35(s, 3H), 3.75(brs, 2H), 5.8(s, 1H), 6.95(s, 2H) ppm.

reactant | 2-(2-bromo-1-methyl-ethyl idene)-malononitrile | BrCC(C)=C(C#N)C#N | C6H5BrN2
reactant | 2,4,6-trimethylaniline | 91.24 mmol, 17.330 g | CC1=C(N)C(=CC(=C1)C)C | C9H13N
solvent | isopropanol | 40 mL | C(C)(C)O | C3H8O
product | 2-amino-4-methyl-1-(2,4,6-trimethylphenyl)pyrrole-3-carbonitrile | 33.000 g | NC=1N(C=C(C1C#N)C)C1=C(C=C(C=C1C)C)C | C15H17N3
